US07598393B2
Step A. 1-{[(4-Bromo-2-nitrophenyl)amino]methyl}cyclohexanol
The title compound was prepared according to the procedure described in Step A of Example 5 from 4-bromo-1-flouro-2-nitrobenzene (Wako Pure Chemical Industries, Ltd.), 1-(aminomethyl)cyclohexanol hydrochloride (J. Med. Chem. 1981, 24, 7-12.) and N,N-diisopropylethylamine.

reactant | 4-bromo-1-flouro-2-nitrobenzene | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 1-(aminomethyl)cyclohexanol hydrochloride | Cl.NCC1(CCCCC1)O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-{[(4-Bromo-2-nitrophenyl)amino]methyl}cyclohexanol | BrC1=CC(=C(C=C1)NCC1(CCCCC1)O)[N+](=O)[O-] | C13H17BrN2O3
